US08247574B2
C) 1,1′-Di-(4-methylphenyl)-3,3′-methylenediimidazolium dibromide 18
0.013 mol of 1-(4-methylphenyl)imidazole (2.000 g), 0.0063 mol of dibromomethane (1.099 g; 0.45 ml) and 5 ml of THF are stirred in a pressure tube at room temperature overnight and then at 120° C. for 9 hours. The precipitated solid is filtered off and washed repeatedly with a little tetrahydrofuran.

reactant | 1-(4-methylphenyl)imidazole | 0.013 mol, 2.000 g | CC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2
reactant | dibromomethane | 0.0063 mol, 0.45 ml, 1.099 g | BrCBr | CH2Br2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | 1,1′-Di-(4-methylphenyl)-3,3′-methylenediimidazolium dibromide | [Br-].[Br-].CC1=CC=C(C=C1)[N+]1=CN(C=C1)CN1C=[N+](C=C1)C1=CC=C(C=C1)C | InChI=1S/C21H22N4.2BrH/c1-18-3-7-20(8-4-18)24-13-11-22(16-24)15-23-12-14-25(17-23)21-9-5-19(2)6-10-21;;/h3-14,16-17H,15H2,1-2H3;2*1H/q+2;;/p-2
